US08049015B2
2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde (1.59 g, 4.4 mmol), 3,5-dibromo-2-methoxy-pyridine (1.19 g, 4.4 mmol), and potassium carbonate (2.17 g, 15.6 mmol) were combined in DME (13 mL) and H2O (6 mL). The solution was purged with N2 for 30 minutes, and dichlorobis(triphenylphosphine)palladium(II) (0.156 g, 0.22 mmol) was added. The reaction was stirred at 85° C. overnight, and then cooled to room temperature and worked-up with EtOAc and brine. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give 2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzaldehyde, which was repurified by preparative HPLC.

reactant | 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde | 4.4 mmol, 1.59 g | CC1(OB(OC1(C)C)C1=C(C=O)C=C(C=C1)C(F)(F)F)C | C14H16BF3O3
reactant | 3,5-dibromo-2-methoxy-pyridine | 4.4 mmol, 1.19 g | BrC=1C(=NC=C(C1)Br)OC | C6H5Br2NO
reactant | potassium carbonate | 15.6 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DME | 13 mL | COCCOC | C4H10O2
solvent | H2O | 6 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.22 mmol, 0.156 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzaldehyde | BrC=1C=C(C(=NC1)OC)C1=C(C=O)C=C(C=C1)C(F)(F)F | C14H9BrF3NO2
